US07560569B2
In a similar manner to Example 63, (2S,4S)-1-[[N-(4-carboxybicyclo[2.2.2]oct-1-yl)amino]acetyl]-4-fluoropyrrolidine-2-carbonitrile (50.0 mg) and 2-chloro-4-methylaniline (41.8 μL) were used to obtain (2S,4S)-1-[[N-[4-[N-(2-chloro-4-methylphenyl)amino]carbonylbicyclo[2.2.2]oct-1-yl]amino]acetyl]-4-fluoropyrrolidine-2-carbonitrile (22.6 mg).

reactant | (2S,4S)-1-[[N-(4-carboxybicyclo[2.2.2]oct-1-yl)amino]acetyl]-4-fluoropyrrolidine-2-carbonitrile | 50.0 mg | C(=O)(O)C12CCC(CC1)(CC2)NCC(=O)N2[C@@H](C[C@@H](C2)F)C#N | C16H22FN3O3
reactant | 2-chloro-4-methylaniline | 41.8 μL | ClC1=C(N)C=CC(=C1)C | C7H8ClN
product | (2S,4S)-1-[[N-[4-[N-(2-chloro-4-methylphenyl)amino]carbonylbicyclo[2.2.2]oct-1-yl]amino]acetyl]-4-fluoropyrrolidine-2-carbonitrile | 22.6 mg | ClC1=C(C=CC(=C1)C)NC(=O)C12CCC(CC1)(CC2)NCC(=O)N2[C@@H](C[C@@H](C2)F)C#N | C23H28ClFN4O2
